Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ciprofloxacin / Penicillins / Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Bradycardia, hypotension
 
Major Surgical or Invasive Procedure:
Debridement of right foot third phalynx 

 
History of Present Illness:
___ with PMHx of atrial fibrillation, CKD, hypertension, 
hyperlipidemia, and long hospitalization ___ ___ for severe 
sepsis resulting ___ speech difficulties from intubation 
presented to ___ with shaking chills.

The patient reports having had a left foot wound that started 2 
weeks ago. He only recently mentioned it to his primary care 
doctor, who referred him to the ___ Wound Care Clinic, where 
he was seen on ___.

On the morning of presentation, he developed acute onset of 
shaking chills with no subjective fevers. His symptoms were 
severe enough that he presented to the ___. ___ the 
___, his initial vitals showed a temp of 103.4, HR 100, BP 
134/77, and O2 sat 86% on RA. While ___ the ___, he subsequently 
developed bradycardia to the ___ with BP ___ the 100s/30s-50s. He 
received vancomycin 1gm, ceftriaxone 1gm, and 1L NS prior to 
admission.

On the floor at ___, he became bradycardic to the ___ and 
hypotensive, which required transfer to the MICU, where he 
received 2L NS. Given concern for worsening bradycardia ___ the 
setting of sepsis, the patient was transferred to ___ for 
further management.

Upon arrival, the patient reports feeling well. Specifically, he 
denied any headache, lightheadedness, dizziness, shortness of 
breath, chest pain, palpitations, nausea, vomiting, diarrhea, 
abdominal pain, cough, or pain with breathing.

REVIEW OF SYSTEMS:  
(+) per HPI  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
Denies any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies recent fevers, chills or rigors. Denies exertional 
buttock or calf pain. All of the other review of systems were 
negative.

 
Past Medical History:
Atrial Fibrillation
Chronic Renal Failure (baseline Cr 1.3-1.5)
Hypertension
Dyslipidemia
Elevated PSA
History of Celiac Artery Aneurysm
 
Social History:
___
Family History:
Mother was ___ when she had a MI, and father was ___ when he had a 
MI. Both passed ___ their ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
GEN:  elderly gentleman lying comfortably ___ bed, no acute 
distress
HEENT:  PERRL, EOMI, sclerae anicteric, no conjunctival pallor
NECK:  supple, JVP ~3-4cm above clavicle lying at ___radycardic, regular rhythm, no murmurs/rubs/gallop
LUNGS:  clear to auscultation, no crackles or wheezes
ABD:  soft, nontender, nondistended, large umbilical hernia 
palpated
EXT:  warm, well-perfused, extensive venous stasis changes ___ 
bilateral lower extremities with ___ pitting edema up to knees
SKIN:  has a ~2x5 cm ulcer with purulent drainage on the lateral 
aspect of left ankle
NEURO:  alert, oriented x3, has some mild speech impairment, 
otherwise grossly nonfocal

DISCHARGE PHYSICAL EXAM
VS: T 98.2  HR ___  BP 110s-130s/40s-60s RR ___ 93-95% RA
Tele: Atrial fibrillation with conduction abnormality, HRs 
___, has had 6 sinus pauses of apprixmately 2.5seconds each 
since MN
Gen: NAD, overweight male, AAox3  
 HEENT: NCAT, MMM,  
 Neck: no JVP elevation  
 CV: brady, S1 S2, ii/vi systolic ejection murmur 
 Resp: CTABL no w/c/r  
 ABD: +BS, soft, NDNT, no guarding/rebound  
 Extr: ___ edema 1+,  
 Skin: warm lower extremities b/l, chronic venous stasis changes 
___, ___ rt toe ulcer, Lft ankle ulcer open wound , dopplerable 
___ pulses bilaterally as per vascular note
 Neuro: dysarthric, grossly nonfocal  

 
Pertinent Results:
ADMISSION LABS: 
___ 10:50PM BLOOD WBC-15.5*# RBC-3.55* Hgb-11.8* Hct-34.6* 
MCV-98 MCH-33.2* MCHC-34.1 RDW-14.3 RDWSD-50.7* Plt ___
___ 10:50PM BLOOD Neuts-90.0* Lymphs-4.4* Monos-4.6* 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-14.04* AbsLymp-0.68* 
AbsMono-0.71 AbsEos-0.03* AbsBaso-0.06
___ 10:50PM BLOOD ___ PTT-37.0* ___
___ 10:50PM BLOOD Plt ___
___ 10:50PM BLOOD Glucose-99 UreaN-42* Creat-1.4* Na-139 
K-3.7 Cl-99 HCO3-31 AnGap-13
___ 10:50PM BLOOD ALT-27 AST-34 CK(CPK)-104 AlkPhos-58 
TotBili-1.0
___ 10:50PM BLOOD CK-MB-2 cTropnT-0.18*
___ 10:50PM BLOOD Calcium-8.4 Phos-2.6* Mg-1.8
___ 10:50PM BLOOD TSH-1.4
___ 11:17PM BLOOD ___ Temp-36.7 Rates-/20 pO2-31* 
pCO2-49* pH-7.44 calTCO2-34* Base XS-7 Intubat-NOT INTUBA 
Vent-SPONTANEOU
___ 11:17PM BLOOD Lactate-1.2

IMAGING: 
ECHO ___
The left atrial volume index is moderately increased. The right 
atrium is moderately dilated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is at 
least 15 mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size, and regional/global 
systolic function (biplane LVEF = 70 %). The right ventricular 
cavity is moderately dilated with normal free wall 
contractility. [Intrinsic right ventricular systolic function is 
likely more depressed given the severity of tricuspid 
regurgitation.] The ascending aorta is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global left ventricular systolic 
function. Moderate pulmonary artery systolic hypertension. Right 
ventricular cavity dilation. Moderate tricuspid regurgitation. 
Dilated ascending aorta.

ECG ___ 
Regular supraventricular bradycardia of uncertain mechanism, 
possibly 
junctional. Although cannot exclude sinus bradycardia with 
undetectable 
P waves. Right bundle-branch block. Low QRS voltage ___ the 
precordial leads. Diffuse non-diagnostic repolarization 
abnormalities. Compared to the previous tracing of ___ a 
junctional rhythm may now be present. Right bundle-branch block 
is now seen. 
  
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
40   ___   0 -3 21 

CXR ___
___ comparison with the study of ___, there is again 
substantial 
enlargement of the cardiac silhouette without pulmonary vascular 
congestion.  This discordance raises the possibility of 
underlying cardiomyopathy or even pericardial effusion. 
No acute focal pneumonia. 

RIGHT FOOT XR ___
1. No radiographic evidence of osteomyelitis above the ulcer 
site reported at the distal tip of the ___ right phalanx.  If 
further evaluation is required, MRI can be performed. 
2. Diffuse osteopenia throughout the right foot. Small erosion 
is noted at the dorsal aspect of the first right metatarsal. 

LEFT FOOT XR ___
Degenerative changes.  No definite evidence of osteomyelitis. 

LEFT TIB/FIB XR ___
No convincing radiographic evidence for osteomyelitis.

ECHO ___
Mild spontaneous echo contrast is seen ___ the body of the left 
atrium. No mass/thrombus is seen ___ the left atrium or left 
atrial appendage. Mild spontaneous echo contrast is present ___ 
the left atrial appendage. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. There are simple atheroma ___ 
the descending thoracic aorta. The aortic valve leaflets (3) are 
mildly thickened. No masses or vegetations are seen on the 
aortic valve. No aortic valve abscess is seen. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. No mass or vegetation is seen on the mitral 
valve. Mild (1+) mitral regurgitation is seen. Moderate [2+] 
tricuspid regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: No echocardiographic evidence of endocarditis or 
aortic root abscess. Normal mitral valve morphology with mild 
mitral regurgitation. Normal tricuspid valve morphology with at 
least moderate tricuspid regurgitation. Mild ___ spontaneous 
echo contrast. No ___ thrombus. Simple atheroma ___ the 
descending thoracic aorta. 

ORBITS ___
There are no radiopaque foreign bodies overlying the orbits. 

MRI L ANKLE ___
1.  Skin ulcer, subcutaneous edema and skin thickening, which 
can represent cellulitis ___ the appropriate clinical setting.  
No rim enhancing fluid collection.  No osteomyelitis.
2.  Mild tendinosis of the posterior tibialis tendon.

MRI R FOOT WITH AND WITHOUT CONTRAST ___
IMPRESSION: 
 
1.  Synovial hypertrophy and proliferation with periarticular 
erosions seen atthe first MTP joint most likely represent gout 
or inflammatory arthritis suchas rheumatoid.  Infection is a 
possibility but given the lack of bone marrow edema pattern and 
significant joint effusion they are considered less likely. 
Secondary degenerative changes are seen at the first MTP joint.
 
2.  Skin ulcer and soft tissue edema noted without evidence of 
abscess or
osteomyelitis at the third toe.   There is a small amount of 
fluid at the
third MTP joint, however, given the lack of bone marrow edema 
infection/
septic arthritis is considered unlikely.
 
3.  Degenerative changes ___ subchondral cysts versus possibly 
erosions are
seen at multiple TMT joints.

___ ART EXT (REST ONLY)
FINDINGS:   
On the right side, triphasic Doppler waveforms are seen ___ the  
posterior 
tibial and dorsalis pedis arteries. 
The right ABI was not obtained due to noncompressible arteries. 
  
On the left side, triphasic Doppler waveforms are seen at the 
left  posterior 
tibial and dorsalis pedis arteries. 
The left ABI was not obtained due to noncompressible arteries. 
  
Pulse volume recordings showed symmetric amplitudes bilaterally, 
at all 
levels.  There were slightly diminished at the metatarsal area 
  
Toe pressures were 132/101 mm Hg consistent with calcified toe 
vessels. 
  
IMPRESSION:   
Triphasic waveforms suggest adequate perfusion to feet.  
Evidence of medial calcification. 

MICROBIOLOGY: 
Urine culture ___: Negative
Blood cultures ___ and ___: Negative

___ SWAB  R ___ TOE. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 
      STAPH AUREUS COAG +.    SPARSE GROWTH.  OF TWO COLONIAL 
MORPHOLOGIES. 

   ANAEROBIC CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA. 
         Mixed bacteria are present, which may include anaerobes 
and/or facultative anaerobes. The presence of B.fragilis, 
C.perfringens, and C.septicum is being ruled out. 

C.diff ___ negative

DISCHARGE LABS:
___ 07:40AM BLOOD WBC-6.3 RBC-3.92* Hgb-12.7* Hct-38.5* 
MCV-98 MCH-32.4* MCHC-33.0 RDW-13.8 RDWSD-49.7* Plt ___
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD ___
___ 07:40AM BLOOD Glucose-88 UreaN-19 Creat-1.4* Na-138 
K-4.1 Cl-99 HCO3-33* AnGap-10
___ 07:40AM BLOOD estGFR-Using this
___ 07:40AM BLOOD ALT-45* AST-41* AlkPhos-96 TotBili-0.6
___ 07:40AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.___ with PMHx of atrial fibrillation, CKD, hypertension, 
hyperlipidemia, and long hospitalization ___ ___ for severe 
sepsis resulting ___ speech difficulties from intubation 
presented with shaking chills, found to have sepsis, 
bradycardia, and hypotension, transferred to ___ for further 
care, with inital plan for pacemaker placement after infection 
resolved which was deferred as patient's bradycardia was 
assymptomatic and thought to be patient's baseline.

# Atrial Fibrillation with Slow Conduction: Patient's EKG was 
irregular with slow heart rate and no discernible p waves, which 
___ the setting of chronic atrial fibrillation suggests slow 
conduction and AV node dysfunction. His heart rate did not 
augment with bedside exercises. As recently as ___, he had 
RBBB on EKG and now the pt has LBBB. It does not appear to be 
rate dependent as he previously had EKGs read as RBBB with rate 
___ the ___ (no actual EKG available for comparison). Given 
history of bundle branch block, he likely had extensive 
conduction disease. Currently no need for any acute intervention 
for heart rate given that he was mentating appropriately with 
good urine output and normal lactate, pt was w/o LH/dizziness or 
any Sx from the bradycardia. It is also possible that his 
bradycardia was due to his infection/possible sepsis. EP 
considered placing pacemaker once infxn clears however decided 
against it given that patient was assyptomatic and likely at 
baseline HR. Pt's TSH was wnl. Held metoprolol and other 
arrythmics while bradycardia, no need for chronotropic agents as 
pt w/o difficulty perfusing. Pt's AC was held initially ___ the 
setting of possible interventions, was restarted on his home 
Warfarin.

# Soft tissue infection of R extremity third phalynx: Initially 
there was concern for septic shock with pt's hypotension, but 
most likely etiology for low BPs was his bradycardia. 
Hypotension improved with fluids. Most likely source was his 
foot infection, R toe vs L ankle ulcer.There was no report of 
infiltrate on chest x-ray and no history of cough. He had no 
dysuria and UA at ___ was normal. He reports no other 
localizing symptoms other than his ___ ulcers which weren't 
painful, ___ ankle wound Cx grew MRSA, blood cultures 
from ___ have been negative. UA was found to be positive for 
nitrites. Initially there was concern for endocarditis due to 
bradycardia, TTE/TEE not showing endocarditis. ID was consulted 
for recommendations. MRI was done which was negative for 
osteomyelitis. ESR/CRP was mildly elevated. UCx was negative. 
Skin flora from patient's toe ulcer was growing polymicrobial 
species. Pt was covered broadly for skin flora with Vancomycin 
for MRSA and ceftriaxone for Strep species, and was narrowed to 
bactrim and flagyl. Vasular surgery was consulted for ankle 
ulcer, noninvasives showed good arterial waveforms, most likely 
venous stasis ulcer, recommended raising legs and compression 
ACE wraps, no angiography needed. Podiatry was consulted for toe 
ulcer, for which they debrided, toe xrays did not appear to show 
osteo and wound didn't appear to go to bone. ID recommended 1 
week Abx for soft tissue infection as MRI was negative for 
osteo. 7 day course of antibiotics, end date ___.

# Diastolic Heart Failure: Pt w/o signs of acute decompensated 
heart failure. He was slightly hypoxic with mild pulmonary 
congestion reported by ___. Pt w/increasing ___ edema, TTE 
here w/normal EF. Restarted pt's home Lasix 40mg BID.

# ___ on CKD: Patient's baseline Cr appeared to be around 
1.3-1.5. Cr 1.4 on discharge. 

# Troponinemia: Most likely caused by sepsis/demand and 
elevation ___ the setting of chronic kidney disease. No elevation 
___ CK-MB and no signs of ST segment changes. TTE w/o regional 
wall abnormality. RESOLVED.

# Transaminitis: Low grade to ___, stable. ___ be ___ to 
ceftriaxone or ___ to transient hypotensive state given elevated 
lactate during admission that has since resolved. Ceftriaxone 
discontinued. No RUQ pain.

# Hematuria: Patient with hematuria that appeared to be due to 
Foley trauma ___ the setting of being on warfarin. Had improved 
though again w/hematuria ___ AM, though only w/few clots ___, 
NO CBI was needed, DC'd foley. RESOLVED.

CHRONIC ISSUES:
# Hypertension: Held lisinopril 10mg daily while hypotensive and 
re-started.
# Hyperlipidemia: Continued atorvastatin 40mg daily.
# BPH: Continued tamsulosin 0.4mg and finasteride 5mg daily.
# Insomnia: Held zolpidem 5mg PRN initially but re-started at 
2.5mg PRN at patient/family's request.

***TRANSITIONAL ISSUES***
-No Metoprolol or anti-arrythmics while pt is bradycardic, as 
they can cause asystole due to preventing escape rhythm
-consider increasing Lasix dose to decrease ___ edema
-No angio or intervention per vascular for left ankle ulcer
-Repeat LFTs at primary care appointment as an out patient to 
ensure resolution of mild transaminitis
-Will follow up with Dr. ___ arrhythmia and ___ 
interpretation
-Will need PCP follow up of peripheral neuropathy (normal A1c, 
B12 ___ house)
-Will need to take Bactrim and flagyl to complete 7 day course 
for soft tissue infection, end date ___
-Started Imodium for diarrhea that started after initiation of 
antibiotics, C.diff was negative

 # CODE: Full 
 # CONTACT: ___ (wife, HCP, ___, ___ 
(daughter, ___, ___ (son, ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Metolazone 2.5 mg PO EVERY OTHER DAY 
2. Lisinopril 10 mg PO DAILY 
3. Potassium Chloride 60 mEq PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Furosemide 40 mg PO BID 
6. Atorvastatin 40 mg PO QPM 
7. Magnesium Oxide 400 mg PO DAILY 
8. Fish Oil (Omega 3) ___ mg PO TID 
9. Ascorbic Acid ___ mg PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 
11. Warfarin 7.5 mg PO 6X/WEEK (___) 
12. Warfarin 10 mg PO 1X/WEEK (___) 
13. Multivitamins 1 TAB PO DAILY 
14. Finasteride 5 mg PO DAILY 
15. Zolpidem Tartrate 5 mg PO QHS 

 
Discharge Medications:
1. Atorvastatin 40 mg PO QPM 
2. Finasteride 5 mg PO DAILY 
3. Furosemide 40 mg PO BID 
4. Tamsulosin 0.4 mg PO QHS 
5. Warfarin 7.5 mg PO 6X/WEEK (___) 
6. Zolpidem Tartrate 5 mg PO QHS 
7. Ascorbic Acid ___ mg PO DAILY 
8. Fish Oil (Omega 3) 3000 mg PO TID 
9. Lisinopril 10 mg PO DAILY 
10. Magnesium Oxide 400 mg PO DAILY 
11. Metolazone 2.5 mg PO EVERY OTHER DAY 
12. Metoprolol Succinate XL 50 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Potassium Chloride 60 mEq PO DAILY 
Hold for K > 5 
15. Warfarin 10 mg PO 1X/WEEK (___) 
16. Collagenase Ointment 1 Appl TP DAILY 
RX *collagenase clostridium histo. [Santyl] 250 unit/gram Apply 
to left ankle daily once daily Refills:*0
17. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0
18. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H soft tissue infection 
19. Sulfameth/Trimethoprim DS 1 TAB PO BID soft tissue infection 

20. LOPERamide 2 mg PO QID:PRN diarrhea 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Atrial fibrillation with slow conduction
Soft tissue infection of right lower extremity

SECONDARY DIAGNOSES:
Chronic diastolic heart failure
CKD
Troponinemia
Hematuria
Hypertension
Hyperlipidemia
BPH
Insomnia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital for low heart rate and low 
blood pressure. It was thought that you had these symptoms from 
infections of your lower extremities and your right third toe 
was debrided. You had imaging done to ensure that you did not 
have a bone infection ___ either of your extremities and were 
treated antibiotics for a soft tissue infection. Since you are 
not having symptoms from your low heart rate you did not require 
pacemaker placement, however you will wear ___ of Hearts 
monitor to monitor your heart rhythm and follow up with Dr. 
___ as an outpatient.

Please continue to take all of your medications as perscribed 
and weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

It was a pleasure taking care of you.

Sincerely,
Your ___ team
 
Followup Instructions:
___